US05939451
0.1 g (0.000293 mol) of 4-amino-N-(6-chloro-2-isopropyl-amino-pyrimidin-4-yl)-benzenesulfonamide was dissolved in 20 ml of ethanol, treated with 1.93 ml (0.0293 mol) of ethylamine and stirred in an autoclave at 130° C. for 4 hours. The reaction mixture was freed from solvent, the residue was suspended in 5 ml of ethanol and treated in an ultrasound bath for 15 min. The precipitate was filtered off, dissolved in 10 ml of 0.1N NaOH and filtered. The filtrate was adjusted to pH 6 with 0.1N HCl. The precipitate was filtered off under suction, washed with water and dried. There was obtained 0.044 g (43%) of 4-amino-N-(6-ethylamino-2-isopropylamino-pyrimidin-4-yl)-benzenesulfonamide as white crystals; m.p.: 266-267° C.

reactant | 4-amino-N-(6-chloro-2-isopropyl-amino-pyrimidin-4-yl)-benzenesulfonamide | 0.000293 mol, 0.1 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1N)Cl)C(C)C | C13H16ClN5O2S
reactant | ethylamine | 0.0293 mol, 1.93 ml | C(C)N | C2H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-amino-N-(6-ethylamino-2-isopropylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.044 g, 43% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCC)NC(C)C | C15H22N6O2S
